US07989449B2
2-(2-{4-[1-(3-Bromo-phenyl)-vinyl]-phenoxy}-ethoxy)-tetrahydro-pyran
Cesium carbonate (4.36 g, 13.4 mmol, 1.2 eq) and 2-(2-bromoethoxy)-tetrahydro-2H-pyran (1.94 mL, 12.8 mmol, 1.2 eq) were added to a solution of 4-[1-(3-bromo-phenyl)-vinyl]-phenol (2.9 g, 10.7 mmol, 1.0 eq) in dry N,N-dimethylformamide (35 mL). The mixture was stirred overnight at 55° C. Dichloromethane (100 mL) and water (50 mL) were then added. The organic phase was washed with water (3×) and dried over sodium sulfate. Evaporation of solvent and purification by flash chromatography (eluent: cyclohexane/ethyl acetate=9:1 then 8:2) gave 2.0 g of desired product as yellow oil (yield 47%).

reactant | Cesium carbonate | 13.4 mmol, 4.36 g, 1.2 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(2-bromoethoxy)-tetrahydro-2H-pyran | 12.8 mmol, 1.94 mL, 1.2 eq | BrCCOC1OCCCC1 | C7H13BrO2
reactant | 4-[1-(3-bromo-phenyl)-vinyl]-phenol | 10.7 mmol, 2.9 g, 1.0 eq | BrC=1C=C(C=CC1)C(=C)C1=CC=C(C=C1)O | C14H11BrO
reactant | Dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | water | 50 mL | O | H2O
product | 2-(2-{4-[1-(3-Bromo-phenyl)-vinyl]-phenoxy}-ethoxy)-tetrahydro-pyran | 2.0 g, yield 47% | BrC=1C=C(C=CC1)C(=C)C1=CC=C(OCCOC2OCCCC2)C=C1 | C21H23BrO3
